US06197826B1
Synthesis of α-(3,5-Dichloro-2-hydroxyphenyl)-N-tert-butylnitrone
To a solution of tert-butylhyroxylamine hydrochloride (1.5 eq.) and sodium methoxide (1.2 eq.) in MeOH was added 3,5-dichloro-2-hydroxybenzaldehyde (1 eq.) and 5 drops of 37% HCl. The resulting solution was refluxed over molecular sieves (40 g) until no more aldehyde was detected by TLC. The mixture was then cold filtered to remove molecular sieves and sodium chloride, and rinsed with CH2Cl2. The solvent was removed in vacuo and the title compound was isolated in 97.1% yield as a yellow crystalline solid, m.p. 102.9° C. (Rf=0.33 on a silica gel plate using 7:3 hexanes/EtOAc as an eluant).

reactant | tert-butylhyroxylamine hydrochloride | 1.5 eq. | Cl.C(C)(C)(C)NO
reactant | sodium methoxide | 1.2 eq. | C[O-].[Na+]
reactant | 3,5-dichloro-2-hydroxybenzaldehyde | 1 eq. | ClC=1C(=C(C=O)C=C(C1)Cl)O | C7H4Cl2O2
solvent | MeOH | CO | CH4O
catalyst | HCl | 5 drops | Cl | ClH
product | α-(3,5-Dichloro-2-hydroxyphenyl)-N-tert-butylnitrone | 97.1% yield | ClC=1C(=C(C=C(C1)Cl)C=[N+]([O-])C(C)(C)C)O | C11H13Cl2NO2
